US05395969
Stage 1--Preparation of 9-bromofluorene
A mixture of fluorene (MW 166, 0.36M, 59.76 g), N-bromosuccinimide (MW 178, 0.36M, 64.1 g), benzoyl peroxide (MW 242, 0.0036M, 0.87 g) and carbon tetrachloride (360 ml) was stirred at reflux for 3 hours. After cooling to room temperature and screening, the filtrates were evaporated under reduced pressure to yield a dark oil, which after crystallisation from methanol gave 46.1 g of the title product (55% yield) as a yellow solid, m.p. 102°-104° C.

reactant | fluorene | 0.36M, 59.76 g | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | N-bromosuccinimide | 0.36M, 64.1 g | BrN1C(CCC1=O)=O | C4H4BrNO2
catalyst | benzoyl peroxide | 0.0036M, 0.87 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 360 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 9-bromofluorene | 46.1 g, 55% yield | BrC1C2=CC=CC=C2C=2C=CC=CC12 | C13H9Br
